US04330549
In a manner analogous to that described in Example 8, by the reaction of 7-hydroxy-4-methyl-2-oxo-1,2-dihydroquinoline with 3-(4-benzamido-piperidino)-propyl chloride in methoxyethanol, there is obtained, in a yield of 46% of theory, 7-[3-(4-benzamido-piperidino)-propoxy]-4-methyl-2-oxo-1,2-dihydroquinoline; m.p. 275°-276° C.

reactant | 7-hydroxy-4-methyl-2-oxo-1,2-dihydroquinoline | OC1=CC=C2C(=CC(NC2=C1)=O)C | C10H9NO2
reactant | 3-(4-benzamido-piperidino)-propyl chloride | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCCCl | C15H21ClN2O
solvent | methoxyethanol | COC(C)O | C3H8O2
product | 7-[3-(4-benzamido-piperidino)-propoxy]-4-methyl-2-oxo-1,2-dihydroquinoline | yield of 46% | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCCOC1=CC=C2C(=CC(NC2=C1)=O)C | C25H29N3O3
